US05116971
5.1. N-{[5-Amino-4-(2-chlorobenzoyl)thiophen-2-yl]carbonyl}glycine ethyl ester
14.0 g (50 mmol) of 5-amino-4-(2-chlorobenzoyl)-thiophene-2-carboxylic acid [the synthesis is carried out analogously to Hromatka et al., Monatsh. Chem. 104, 973 (1973)] are suspended in 250 ml of anhydrous dichloromethane, 8 ml of thionyl chloride are added dropwise, and the mixture is stirred at room temperature for 2.5 hours. It is then evaporated in vacuo, the residue is taken up in dichloromethane, and the solution is added dropwise to a mixture of 7 g (50 mmol) of glycine ethyl ester hydrochloride and 16 ml of triethylamine in 100 ml of anhydrous dichloromethane. After 1 our at room temperature the mixture is extracted with water. The residue from the concentrated organic phase is worked up by chromatography on silica gel. 8.1 g (44% of theory) of the title compound of melting point 216°-218° C. are obtained.

reactant | 5-amino-4-(2-chlorobenzoyl)-thiophene-2-carboxylic acid | 50 mmol, 14.0 g | NC1=C(C=C(S1)C(=O)O)C(C1=C(C=CC=C1)Cl)=O | C12H8ClNO3S
reactant | thionyl chloride | 8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | glycine ethyl ester hydrochloride | 50 mmol, 7 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 16 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-{[5-Amino-4-(2-chlorobenzoyl)thiophen-2-yl]carbonyl}glycine ethyl ester | C(C)OC(CNC(=O)C=1SC(=C(C1)C(C1=C(C=CC=C1)Cl)=O)N)=O | C16H15ClN2O4S
